US07538131B2
c) Preparation of Isopropyl (1R,3S)-3-(tetrahydropyran-2-yloxymethyl)cyclohexanecarboxylate
100 g of isopropyl (1R,3S)-3-hydroxymethylcyclohexanecarboxylate and 46.2 g of dihydropyran are dissolved in 500 ml of dichloromethane and, at 0° C., 4.75 g of toluenesulfonic acid monohydrate are added. The solution is stirred overnight and then sat. sodium bicarbonate solution is added. The organic phase is separated off, diluted with MTBE and washed with sat. sodium chloride solution, dried over MgSO4 and concentrated, resulting in 140 g of isopropyl (1R,3S)-3-(tetrahydropyran-2-yloxymethyl)cyclohexanecarboxylate as brown oil.

reactant | isopropyl (1R,3S)-3-hydroxymethylcyclohexanecarboxylate | 100 g | OC[C@@H]1C[C@@H](CCC1)C(=O)OC(C)C | C11H20O3
reactant | dihydropyran | 46.2 g | O1CCCC=C1 | C5H8O
reactant | toluenesulfonic acid monohydrate | 4.75 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | Isopropyl (1R,3S)-3-(tetrahydropyran-2-yloxymethyl)cyclohexanecarboxylate | O1C(CCCC1)OC[C@@H]1C[C@@H](CCC1)C(=O)OC(C)C | C16H28O4
